* C:\SourceCode\GitHub\electronix\LTspice\LTspTransistors\Q_characteristics\leakage_current\leakage_current_03.asc
Q2 nQ2c nQ2b nQ2e 0 2SA1579U3
V§AmmE nRe nQ2e 0V Rser=0
V§AmmB nQ2b nRb 0V Rser=0
V§AmmC nQ2c NC_01 0V Rser=0
V1 nV1+ 0 4.5 Rser=0
Re nRe nV1+ 1.5k
Rb nRb 0 150k
.model NPN NPN
.model PNP PNP
.lib C:\Users\OwnerA\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
* .tran 1000m
.backanno
.end
